US09422285B2
2-[(2,6-Difluorobenzyl)oxy]pyridine
A solution of 2 ml (18.0 mmol) of (2,6-difluorophenyl)methanol in 15 ml of dry tetrahydrofuran stirred at 0° C. was admixed with 865.9 mg (21.6 mmol) of sodium hydride (60% in mineral oil), followed by 1.72 ml (18.0 mmol) of 2-bromopyridine. The resulting solution was stirred at room temperature for 15 h. The reaction mixture was diluted with water (15 ml) and extracted with dichloromethane (2×20 ml). The organic phase was removed, dried with a phase separation cartridge and concentrated under reduced pressure. The residue was purified by flash chromatography using a prepacked silica gel cartridge (eluent:cyclohexane-ethyl acetate 10:1 to 1:1), which gave 800 mg (15% of theory, 77% pure) of the target compound.

reactant | (2,6-difluorophenyl)methanol | 18.0 mmol, 2 ml | FC1=C(C(=CC=C1)F)CO | C7H6F2O
reactant | sodium hydride | 21.6 mmol, 865.9 mg | [H-].[Na+]
reactant | 2-bromopyridine | 18.0 mmol, 1.72 ml | BrC1=NC=CC=C1 | C5H4BrN
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | water | 15 ml | O | H2O
product | 2-[(2,6-Difluorobenzyl)oxy]pyridine | FC1=C(COC2=NC=CC=C2)C(=CC=C1)F | C12H9F2NO
